US05008265
3-Cyclopentylpropionitrile is prepared in this example. 3-Cyclopentylpropionyl chloride (57.7 g, 0.36 mole) is added dropwise to a large excess of concentrated ammonium hydroxide (400 ml) cooled in an ice/salt bath. The heavy suspension of white solid is stirred overnight, collected by filtration, washed with cold water, and recrystallized from about 2 liters of boiling water. The lustrous white plates of the amide are dried in vacuo over P2O5 ; yield 31.6 g (62.3%); mp 122° C.

reactant | 3-Cyclopentylpropionyl chloride | 0.36 mole, 57.7 g | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | ammonium hydroxide | 400 ml | [OH-].[NH4+]
product | 3-Cyclopentylpropionitrile | C1(CCCC1)CCC#N | C8H13N
